data/mechanisms/records/IMS9-EQ9.27a.json
{"mechanism_id": "IMS9-EQ9.27a", "species": [{"species_id": "hexanone_molecular_ion", "mapped_smiles": "[CH3:1][C:2](=[O+:7])[CH:3]([1H:12])[CH2:4][C:5]([1H:11])([1H:13])[CH3:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "pentanoyl_cation_mz85", "mapped_smiles": "[C:2](#[O+:7])[CH:3]([1H:12])[CH2:4][C:5]([1H:11])([1H:13])[CH3:6]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical_c1", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexanone_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["pentanoyl_cation_mz85", "methyl_radical_c1"]}], "steps": [{"step_id": "step_alpha_c1_methyl_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [2, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_fast", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_c1_methyl_loss", "support_type": "textbook_proposed", "locator": {"page": 250, "equation": "9.27", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones (arrow labelled 'fast')"}, "confidence": 0.75, "curator_note": "The FAST branch, drawn as a single arrow labelled 'fast' from the 2-hexanone molecular ion (the page numbers its carbons 1-6 and draws '+.' on the carbonyl oxygen) to 'CH3.' -- explicitly labelled '1' -- plus the acylium, drawn as O≡C(+)-CH2CH2CH2CH3. Ordinary radical-site alpha cleavage of the C1-C2 bond. This is the normal 70 eV channel: the prose above the scheme states 'at 70 eV the 2-hexanone ion loses predominantly the C-1 methyl to give the stable acyl ion C4H9CO+', which is why this record alone carries 70 eV EI conditions while the slow route (IMS9-EQ9.27b/c) is metastable. *** Equation 9.27 draws NO CURVED ARROWS AT ALL -- not one, anywhere on the page. *** Every transformation is conveyed by a reaction-type label ('fast', 'slow', rH, rC) plus the changed structure. Book draws 0 arc(s) for this step and ALL of its electron moves are therefore curator-supplied. This is still a mechanism and not a bare result (contrast eq 9.5, which is in NON_MECHANISM_EQS): the page prints six successive INTERMEDIATE structures with explicit, individually localised charge and radical sites, and each consecutive pair differs by exactly one well-defined change, so the flow is recoverable without inventing connectivity. The book prints its OWN carbon numbers 1-6 on every structure, and this record reuses them as atom maps so the mapping can be checked against the page by eye. That numbering is the whole point of the equation: it is what distinguishes the fast route (which expels the C-1 methyl) from the slow one (which expels C-4 or C-6 after skeletal scrambling). The three moves are the canonical radical-site triple: <1> the oxygen odd electron into the forming C-O pi bond, <2> one electron of the breaking C1-C2 sigma bond into that same bond -- raising C2-O7 from double to TRIPLE, the acylium the page draws as O≡C+ -- and <3> the other C1-C2 electron leaving with the methyl radical. MEASUREMENTS (convention F): this equation prints NO m/z value and no percentage anywhere -- not on the molecular ion, not on any intermediate, not on any product. Every mass in this record is CURATOR-COMPUTED from the instantiated structures. The ions are nevertheless marked detected=true with status 'proposed', following the corpus precedent of IMS8-EQ8.60 / IMS8-EQ8.81a/b, because the running prose reports them as observed species ('the 2-hexanone ion loses predominantly the C-1 methyl to give the stable acyl ion C4H9CO+'; 'protonated pentenone'). No relative_intensity is recorded: the only number on the page is the prose '<3%', which is an UPPER BOUND on a metastable branching ratio, not a 70 eV EI abundance."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_85_acylium", "species_id": "pentanoyl_cation_mz85", "step_id": "step_alpha_c1_methyl_loss", "observed_mz": 85.0648, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.65}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-04T00:00:00Z", "modified_at": "2026-08-04T00:00:00Z"}}
